US07109330B2
Preparation of {2-chloropurin-6-yl}[(4-chlorophenyl)methyl]amine
To a suspension of 15 g (0.0794 mol) of 2,6-dichloropurine in 250 mL of absolute ethanol was added 12.7 mL (0.0873 mol) of triethylamine and 10.62 mL (0.0873 mol) of 4-chlorobenzylamine. The mixture was refluxed at 80° C. for 16 h (the formation of creamy white precipitate was observed). The reaction mixture was cooled and the precipitated product was removed by filtration. The precipitate was washed with ethanol (350 mL) and dried in high vacuum for 24 h. Product was characterized by 1H-NMR.

reactant | 2,6-dichloropurine | 0.0794 mol, 15 g | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | triethylamine | 0.0873 mol, 12.7 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzylamine | 0.0873 mol, 10.62 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | {2-chloropurin-6-yl}[(4-chlorophenyl)methyl]amine | ClC1=NC(=C2NC=NC2=N1)NCC1=CC=C(C=C1)Cl | C12H9Cl2N5
